.title KiCad schematic
.include "C:/Users/ASUS/Desktop/kicad_projects/pwm/models/luBlocks.lib"
.control
option reltol=0.01 abstol=0.01 vntol=0.01
tran 1us 200us uic
set color0=White;
set color1=Black;
plot v(tup) v(tlo) v(m) v(g1) v(g2)
.endc


R7 ndup Vee 10.1k
R6 ndlo Vee 10k
R9 Net-_U4-p_ 0 10k
R8 tri Net-_U4-p_ 10k
R4 Vcc ndlo 10.1k
R5 Vcc ndup 10k
R10 ndlo Net-_U4-m_ 10k
R14 tri Net-_U5-p_ 10k
R13 Net-_U5-m_ tlo 10k
XU5 Net-_U5-p_ Net-_U5-m_ Vcc Vee tlo OPAMP
R12 ndup Net-_U5-m_ 10k
R15 Net-_U5-p_ 0 10k
V1 Vcc 0 DC 15 
R1 tri Net-_U1-m_ 10k
C1 Net-_U2-m_ tri 10nf IC=1
R3 Net-_U1-m_ Net-_U1-o_ 150k
XU1 0 Net-_U1-m_ Vee Vcc Net-_U1-o_ OPAMP
R2 Net-_U1-o_ Net-_U2-m_ 5k
V2 0 Vee DC 15 
XU2 0 Net-_U2-m_ Vcc Vee tri OPAMP
XU4 Net-_U4-p_ Net-_U4-m_ Vcc Vee tup OPAMP
R11 Net-_U4-m_ tup 10k
XU3 tlo m Vcc Vee g2 OPAMP
XU6 m tup Vcc Vee g1 OPAMP
V4 m 0 DC 0 SIN( 0 0.8 5k 0 0 0 ) AC 1  
.end
