* LIBRARY OF MY CUSTOM BLOCKS
* Department: DESE, Indian Institute of Science, Bangalore

***************************************************************
* PWM
***************************************************************
.SUBCKT PWM_1ph nPin nPout fs=10000
atri nPin nPtri triout
.model triout triangle(cntl_array=[0 1] freq_array=[{fs} {fs}] out_low = 0 out_high = 1.0 duty_cycle = 0.5)
acompare [nPin nPtri] ncout comp_sum
.model comp_sum summer(in_gain=[1.0 -1.0])
alim ncout nPout limit_comp
.model limit_comp limit(gain=1e6 out_lower_limit=0.0 out_upper_limit=1.0 fraction=FALSE)
.ENDS
***************************************************************
*-------------------------------------------------
.SUBCKT PWMBridge nPin nArm1T nArm1B nArm2T nArm2B fs=10000
atri1 nPin nPtri1 triout1
.model triout1 triangle(cntl_array=[0 1] freq_array=[{fs} {fs}] out_low = -1.0 out_high = 1.0 duty_cycle = 0.5)
ainv nPin nPinv amp
.model amp gain(gain=-1.0)
acompare1 [nPin nPtri1] ncout1 comp_sum
acompare2 [nPtri1 nPinv] ncout2 comp_sum
.model comp_sum summer(in_gain=[1.0 -1.0])
alim1 ncout1 nArm1T limit_comp
alim2 ncout2 nArm1B limit_comp
alim3 ncout2 nArm2T limit_comp
alim4 ncout1 nArm2B limit_comp
.model limit_comp limit(gain=1e6 out_lower_limit=0.0 out_upper_limit=1.0 fraction=FALSE)
.ENDS
*$
*------------------------------------------------------
*-----------------------------------------------------------------
* OP AMPs
*-----------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.SUBCKT OPAMP    1 2 3 4 5
*opamp is considered as a compare, with pi controller
Bvref nref 0 V=v(1)
Bvfb nfb 0 V=v(2)
Bverr nerr 0 V=v(nref)-v(nfb)
Bic 0 nic i=v(nerr)
Ccontrol nic 0 1uF
Bir 0 nir i=v(nerr)
Rcontrol nir 0 1e6
Vigain nig 0 10
BVc nc 0 V=v(nic)*v(nig)+v(nir)
Blimit 5 0 V=v(nc) < v(4) ? v(4) : v(nc) > v(3) ? v(3) : v(nc)
.ENDS
*---------------------------------------------------------------------
*------------------------------------------------------------------------------
.SUBCKT PID nerr nVc Ki=1 Kp=1 Kd=0 lsat=-1.0 usat=1.0
aint nerr ni pid_int
.model pid_int int(gain={Ki} out_lower_limit={lsat} out_upper_limit={usat})

adif nerr nd pid_dif
.model pid_dif d_dt(gain={Kd} out_lower_limit={lsat} out_upper_limit={usat})

asigma [nerr ni nd] nVsum pid_sum
.model pid_sum summer(in_gain =[{Kp} 1.0 1.0])

apidlimit nVsum nVc  control_limit
.model control_limit limit(out_lower_limit={lsat} out_upper_limit={usat})
.ENDS
*-------------------------------------------------------------------
*-----------------------------------------------------------------------
.SUBCKT sum np nm nout
asum [np nm] nout sum_err
.model sum_err summer(in_gain=[1.0 -1.0])
.ENDS
*-------------------------------------------
*-------------------------------------------
.SUBCKT add np nm nout
asum [np nm] nout sum_err
.model sum_err summer(in_gain=[1.0 1.0])
.ENDS
*-------------------------------------------
*-------------------------------------------
.SUBCKT gain nVi nVo K=1
again nVi nVo amp
.model amp gain(gain ={K})
.ENDS
*-------------------------------------------
.SUBCKT limiter nVi nVo k=1 low=0 high=1
alimit nVi nVo lim
.model lim limit(in_offset=0 gain={k} out_lower_limit={low}
+ out_upper_limit={high} limit_range=1e-6 fraction=FALSE)
.ENDS
*-------------------------------------------
.SUBCKT filt_ord_I nVi nVo K=1 a=1
atrfn nVi nVo transferfn
.model transferfn s_xfer(gain ={K} int_ic=[0 0] num_coeff=[1] den_coeff=[{a} 1])
.ENDS
*-----------------------------------------------------------------------------
.SUBCKT clk nclk fc=10000 duty=0.5 phase=0
venable nen 0 1
aclock nen nclkd varclock
.model varclock d_osc(cntl_array = [0 1]
+                      freq_array = [{fc} {fc}]
+                      duty_cycle = {duty} init_phase={phase})
adac [nclkd] [nclk] dac_buff
.model dac_buff dac_bridge(out_low = 0.0 out_high = 1.0)
.ENDS
*-----------------------------------------------------------------------
*              S    R    Q
.SUBCKT SRFF nset nrst nq
asat1 nset nsetsat schmitff
asat2 nrst nrstsat schmitff
.model schmitff limit(gain=1e6 out_lower_limit=0 out_upper_limit=1.0)
venable nena 0 1
a_adc1 [nsetsat] [nsetd] adc_buff
a_adc2 [nrstsat] [nrstd] adc_buff
a_adc3 [nena] [nend] adc_buff
.model adc_buff adc_bridge(in_low = 0.5 in_high = 0.5)
alatch nsetd nrstd nend "null" "null" nqd nqbar latchsr
.model latchsr d_srlatch
adac [nqd] [nq] dac_buff
.model dac_buff dac_bridge(out_low = 0.0 out_high = 1.0)
.ENDS
*-----------------------------------------------------------------------
*             CLK Q   S    R
.SUBCKT T_FF nclk nq nset nrst
asat1 nclk nclksat schmitff
asat2 nset nsetsat schmitff
asat3 nrst nrstsat schmitff
.model schmitff limit(gain=1e6 out_lower_limit=0 out_upper_limit=1.0)
vtoginput ntoga 0 1
a_adc1 [nclksat] [nclkd] adc_buff
a_adc2 [ntoga] [ntogd] adc_buff
a_adc3 [nsetsat] [nsetd] adc_buff
a_adc4 [nrstsat] [nrstd] adc_buff
.model adc_buff adc_bridge(in_low = 0.5 in_high = 0.5)
atff ntogd nclkd nsetd nrstd nqd nqbar toggleff
.model toggleff d_tff
adac [nqd] [nq] dac_buff
.model dac_buff dac_bridge(out_low = 0.0 out_high = 1.0)
.ENDS
*-------------------------------------------
.SUBCKT EX_OR na nb nq
asat1 na nasat schmitff
asat2 nb nbsat schmitff
.model schmitff limit(gain=1e6 out_lower_limit=0 out_upper_limit=1.0)
a_adc1 [nasat] [nad] adc_buff
a_adc2 [nbsat] [nbd] adc_buff
.model adc_buff adc_bridge(in_low = 0.5 in_high = 0.5)
axor [nad nbd] nqd xor3
.model xor3 d_xor(rise_delay = 0.5e-9 fall_delay = 0.3e-9 input_load = 0.5e-12)
adac [nqd] [nq] dac_buff
.model dac_buff dac_bridge(out_low = 1.0 out_high = -1.0)
.ENDS
.SUBCKT mul nm1 nm2 nout
amul [nm1 nm2] nout sigmult
.model sigmult mult(in_offset=[0 0] in_gain=[1.0 1.0] out_gain=1.0 out_offset=0)
.ENDS
*-------------------------------------------
*Resettable integrator
*-------------------------------------------
.SUBCKT RINT ni nclk no C=1uF
G1 no 0 ni 0 {-C}
C1 no 0 {C}
R1 no nsw 0.01
SW1 nsw 0 nclk 0 switch_simple
.model switch_simple SW(RON=0.001)
.ENDS
*--------------------------------------------
.SUBCKT SAMPLEHOLD ni nclk no 
E1 nx 0 ni 0 1
R1 nx nsw 0.01
SW1 nsw no nclk 0 switch_simple
C1 no 0 100pF
.model switch_simple SW(RON=0.001)
.ENDS
*--------------------------------------------
