.title KiCad schematic
.include "C:/Users/ASUS/Desktop/kicad_projects/MODEL/luDevice.lib.txt"
.include "C:/Users/ASUS/Desktop/kicad_projects/linear_power_supply/bjt_models.lib.txt"
.control
option reltol=0.01 abstol=0.01 vntol=0.01
tran 1u 100ms uic
run
set color0=White;
set color1=Black:
plot v(a,b) v(c) v(o)
.endc
R4 y Net-_U1-Vo_ 100
XU1 Net-_U1-V+_ x Vcc Vee Net-_U1-Vo_ OPAMP
Q1 c Net-_Q1-B_ Net-_Q1-E_ TIP41
V2 Net-_X1-k_ c DC 0 SIN( 0 0 1k 0 0 0 ) AC 1  
V3 Net-_Q1-E_ o DC 0 SIN( 0 0 1k 0 0 0 ) AC 1  
R3 o x 30k
R1 0 o 100
V5 Net-_U1-V+_ 0 DC 2 
R2 x 0 10k
V7 0 Vee DC 15 
V1 a b DC 0 SIN( 0 20 50 0 0 0 ) AC 1  
X4 0 a diode_pwr
V6 Vcc 0 DC 15 
X1 a Net-_X1-k_ diode_pwr
X2 b Net-_X1-k_ diode_pwr
X3 0 b diode_pwr
V4 y Net-_Q1-B_ DC 0 SIN( 0 0 1k 0 0 0 ) AC 1  
C1 0 c 1000u
.end
