.title KiCad schematic
.include "C:/Users/ASUS/Desktop/kicad_projects/full_wave_rectifier/Diode_Model.lib"
.control
.option reltol=0.01 abstol=0.01 vntol=0.01
tran 1us 100ms uic
run
set color0 = White;
set color1 = Black;
plot v(a,b),v(o)
.endc
C1 Net-_C1-Pad1_ 0 1000u
V2 Net-_D1-K_ c DC 0 SIN( 0 0 1k 0 0 0 ) AC 1  
V4 c o DC 0 SIN( 0 0 1k 0 0 0 ) AC 1  
R1 o 0 100
V3 c Net-_C1-Pad1_ DC 0 SIN( 0 0 1k 0 0 0 ) AC 1  
D3 b 0 D!n4004
D4 a 0 D!n4004
D1 Net-_D1-K_ a D!n4004
D2 Net-_D1-K_ b D!n4004
V1 b a DC 0 SIN( 0 325 50 0 0 0 ) AC 1  
.end
