.title KiCad schematic
.model __D1 D
.control
tran 1us 100ms uic
run
set color0 = White; 
set color1 = Black;
plot V(o),v(a),i(v2)
.endc
V1 A 0 DC 0 SIN( 0 325 50 0 0 0 ) AC 1  
C1 O 0 100u
R1 O 0 100
D1 A Net-_D1-K_ __D1
V2 Net-_D1-K_ O DC 0 SIN( 0 0 1k 0 0 0 ) AC 1  
.end
